US05298663
A solution of 1.2 g (0.005 mol) of tertiary-butyl(iso-butyl)(diethoxymethyl) phosphine oxide in 10 ml of 5% hydrochloric acid is heated at 80° C. for 9 hours. After this the mixture is allowed to cool to room temperature, evaporated under reduced pressure and the crude product is extracted into chloroform and washed with water. The organic extract is dried and evaporated to give tertiary-butyl(iso-butyl) phosphine oxide as a pale yellow oil.

reactant | tertiary-butyl(iso-butyl)(diethoxymethyl) phosphine oxide | 0.005 mol, 1.2 g | C(C)(C)(C)P(C(OCC)OCC)(CC(C)C)=O | C13H29O3P
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | tertiary-butyl(iso-butyl) phosphine oxide | C(C)(C)(C)P(CC(C)C)=O | C8H19OP
